US06320050B1
A solution of 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid (400.0 mg, 1.50 mmol) in methylene chloride (5.0 mL) cooled to 0° C. was treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.82 mL, 1.65 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (331 mg, 3.30 mmol) and N,N-diisopropylethylamine (0.62 mL, 3.60 mmol) in tetrahydrofuran (7.5 mL). This solution was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-N-thiazol-2-yl-propionamide (538.4 mg, 100%) as a white solid: mp 51-53° C: EI-HRMS m/e calcd for C18H21FN2O2S (M+) 348.1307 found 348.1312.

reactant | 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid | 1.50 mmol, 400.0 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)OC)F | C15H19FO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 3.30 mmol, 331 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 3.60 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 1.65 mmol, 0.82 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-N-thiazol-2-yl-propionamide | 538.4 mg, 100% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)OC)F | C18H21FN2O2S
